US05196537
To a solution of 400 g (3.44 mol) of valeric acid hydrazide (Lancaster Synthesis) in 3000 mL of dichloromethane under a nitrogen atmosphere, was added 250 g (2 mol) of anhydrous magnesium sulfate and 310 g (3.88 mol) of butyraldehyde. The reaction was stirred at ambient temperature for 17 h, filtered, and concentrated in vacuo providing 613 g of nearly colorless solid: mp 66.5°-68.0° C.; NMR (CDCl3)δ0.97 (t, J=7 Hz, 3 H), 0.92 (t, J=7 Hz, 3 H), 1.31-1.46 (m, 2 H), 1.48-1.73 (m, 4 H), 2.19-2.28 (m, 2 H), 2.62 (t, J=7 Hz, 2 H), 7.14 (t, J=6 Hz, 1 H), 9.18 (br s, 1 H). This material was dissolved in 3000 mL of ethanol and cooled to 0° C. in an ice bath prior to the addition of 130.1 g (3.44 mol) of sodium borohydride. The reaction was maintained at 0° C. for 3 h and then allowd to slowly warm to ambient temperature overnight. The volatiles were removed in vacuo and the residue dissolved in 1500 mL of water and continuously extracted with ether/dichloromethane (1:1) overnight. The extracts were dried (Na2SO4) and concentrated in vacuo to give 549 g (93%) of colorless N2 -butyl valeric acid hydrazide: mp 66.0°-67.5° C.; NMR (CDCl3)δ0.92 (t, J=7 Hz, 6 H), 1.17-1.52 (m, 6 H), 1.56-1.69 (m, 2 H), 2.14 (t, J=7 Hz, 2 H), 2.82 (t, J=7 Hz, 2 H).

reactant | valeric acid hydrazide | 3.44 mol, 400 g | C(CCCC)(=O)NN | C5H12N2O
reactant | magnesium sulfate | 2 mol, 250 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | butyraldehyde | 3.88 mol, 310 g | C(CCC)=O | C4H8O
reactant | sodium borohydride | 3.44 mol, 130.1 g | [BH4-].[Na+]
reactant | dichloromethane | 3000 mL | ClCCl | CH2Cl2
solvent | ethanol | 3000 mL | C(C)O | C2H6O
product | N2 butyl valeric acid hydrazide | 549 g, 93% | N#N.C(CCC)C(C(=O)NN)CCC | InChI=1S/C9H20N2O.N2/c1-3-5-7-8(6-4-2)9(12)11-10;1-2/h8H,3-7,10H2,1-2H3,(H,11,12);
